US09193693B2
Step 2. 2-(Azepan-1-yl)-3-phenylquinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 2-(azepan-1-yl)-3-phenylquinoxaline-6-carboxylate (136 mg, 0.37 mmol, 1.00 equiv, 98%) in methanol (10 mL), sodium hydroxide (75.3 mg, 1.88 mmol, 5.00 equiv). The resulting solution was stirred overnight at 50° C. in an oil bath. The pH value of the solution was adjusted to 3-4 with 1N hydrogen chloride. The resulting mixture was concentrated under vacuum. The resulting mixture was washed with methanol. This resulted in 63.1 mg (47%) of 2-(azepan-1-yl)-3-phenylquinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 2-(azepan-1-yl)-3-phenylquinoxaline-6-carboxylate | 0.37 mmol, 136 mg, 1.00 equiv | N1(CCCCCC1)C1=NC2=CC=C(C=C2N=C1C1=CC=CC=C1)C(=O)OC | C22H23N3O2
reactant | sodium hydroxide | 1.88 mmol, 75.3 mg, 5.00 equiv | [OH-].[Na+]
reactant | hydrogen chloride | 1N | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 2-(Azepan-1-yl)-3-phenylquinoxaline-6-carboxylic acid | N1(CCCCCC1)C1=NC2=CC=C(C=C2N=C1C1=CC=CC=C1)C(=O)O | C21H21N3O2
